US04472300
3-[2-{4-(3-tert-Butoxycarbonylamino-3-carboxypropoxy)phenyl}-2-hydroxyiminoacetamido]-1-(α-carboxy-4-benzyloxybenzyl)-2-azetidinone (240 mg) was suspended in benzene (2 ml), and to the suspension, there was added 2,2,2-trifluoroacetic acid (0.5 ml) at 7° C. with stirring. The mixture was stirred at the same temperature for 2 hours, and diethyl ether (about 25 ml) was added to the reaction mixture, and then the precipitating crystals were collected by filtration. The crystals were suspended in ethyl acetate and then the suspension was stirred at ambient temperature for half an hour. The crystals were collected by filtration and washed with diethyl ether to give 3-[2-{4-(3-amino-3-carboxypropoxy)phenyl}-2-hydroxyiminoacetamido]-1-(α-carboxy-4-benzyloxybenzyl)-2-azetidinone (180 mg), mp 164° to 167.5° C.

reactant | 3-[2-{4-(3-tert-Butoxycarbonylamino-3-carboxypropoxy)phenyl}-2-hydroxyiminoacetamido]-1-(α-carboxy-4-benzyloxybenzyl)-2-azetidinone | 240 mg | C(C)(C)(C)OC(=O)NC(CCOC1=CC=C(C=C1)C(C(=O)NC1C(N(C1)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)=O)=NO)C(=O)O | C35H38N4O11
reactant | 2,2,2-trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diethyl ether | about 25 ml | C(C)OCC | C4H10O
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 3-[2-{4-(3-amino-3-carboxypropoxy)phenyl}-2-hydroxyiminoacetamido]-1-(α-carboxy-4-benzyloxybenzyl)-2-azetidinone | 180 mg | NC(CCOC1=CC=C(C=C1)C(C(=O)NC1C(N(C1)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)=O)=NO)C(=O)O | C30H30N4O9
